US05234918
A solution of 7.6 g of 1-[[8-([1,1'-biphenyl]-4-yloxy)octyl]oxy]-3-[(4-methoxyphenyl)diphenylmethoxy]-2-propanol in 20 ml of dimethylformamide and 20 ml of tetrahydrofuran was added dropwise to a solution of 849 mg of hexane washed 50% sodium hydride in 50 ml of dimethylformamide containing 5.02 g of methyl iodide over 35 minutes under argon. The mixture was stirred overnight then ice was cautiously added followed by 300 ml of iced water. This mixture was extracted three times with ether, the extracts combined, washed with water, dried and evaporated. The residue was taken up in 65 ml of chloroform and 130 ml of methanol, heated to boiling, 8 g of Amberlite® IR-4B ion exchange resin added, stirred for 2 hours, filtered and evaporated. The residue was purified by chromatography, giving 1.27 g of 3-[[8-([1,1'-biphenyl]-4-yloxy]octyl]oxy]2-methoxy- 1-propanol.

reactant | 1-[[8-([1,1'-biphenyl]-4-yloxy)octyl]oxy]-3-[(4-methoxyphenyl)diphenylmethoxy]-2-propanol | 7.6 g | C1(=CC=C(C=C1)OCCCCCCCCOCC(COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=C(C=C1)OC)O)C1=CC=CC=C1 | C43H48O5
reactant | hexane | 849 mg | CCCCCC | C6H14
reactant | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 3-[[8-([1,1'-biphenyl]-4-yloxy]octyl]oxy]2-methoxy- 1-propanol | 1.27 g | C1(=CC=C(C=C1)OCCCCCCCCOCC(CO)OC)C1=CC=CC=C1 | C24H34O4
